US05811428
2-CHLORO-4-TRIFLUOROMETHYLPYRIMIDINE-5-CARBOXYLIC ACID
A solution of 2-chloro-4-trifluoromethylpyrimidine-5-carbonyl chloride (2.1 g, 8.6 mmol) in H2O (10 mL) was stirred at 0° C. under N2 for 0.5 h. The resulting solid was filtered and dried to give the title compound (1.91 g, 98% yield); m.p. 232°-234° C. (dec.).

reactant | 2-chloro-4-trifluoromethylpyrimidine-5-carbonyl chloride | 8.6 mmol, 2.1 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)Cl | C6HCl2F3N2O
reactant | H2O | 10 mL | O | H2O
product | 2-CHLORO-4-TRIFLUOROMETHYLPYRIMIDINE-5-CARBOXYLIC ACID | 1.91 g, 98% yield | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C6H2ClF3N2O2
